********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Dec 22, 2014
*ECN S14-2498, Rev. A
*File Name: SQ2348ES_PS_RC.txt and SQ2348ES_PS_RC.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SQ2348ES D G S 
M1 3 GX S S NMOS W= 1017308u L= 0.3u 
M2 S GX S D PMOS W= 1017308u L= 0.15u 
R1 D 3 1.727e-02 TC=4.288e-03,9.511e-06
CGS GX S 1.005e-10 
CGD GX D 1.454e-11 
RG G GY 1m 
RTCV 100 S 1e6 TC=1.082e-04,3.468e-07
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD S D DBD 1017308u 
**************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 3e-8 
+ RS = 0 KP = 1.372e-05 NSUB = 3.200e+17 
+ KAPPA = 1.546e-01 NFS = 1.000e+12 
+ LD = 0 IS = 0 TPG = 1    )
*************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 3e-8 
+NSUB = 6.310e+16 IS = 0 TPG = -1    )
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 4.719e-09 T_measured = 25 BV = 31
+RS = 1.073e-02 N = 1.019e+00 IS = 6.496e-13 
+EG = 1.202e+00 XTI = -5.261e-01 TRS1 = 3.211e-03
+CJO = 2.573e-10 VJ = 7.104e-01 M = 4.782e-01 ) 
.ENDS 

* source COMPONENT GENERATOR_JAJC
.SUBCKT SQ2348ES_PS_RC D G S PARAMS: C2=1000 R1=1M C3=1000 R2=1M C4=1000 R3=1M
+  C5=1000 R4=1M R5=1M C1=1000
C_CT6         N11708 N11712  279.3391u  TC=0,0 
C_CF2         0 N16364  2.0266m  TC=0,0 
R_RT1         j-a-Temp-Tank N11404  60.6253 TC=0,0 
C_CF7         0 N18737  15.4893m  TC=0,0 
R_RT7         N11712 N11716  7.5912 TC=0,0 
C_CF4         0 N16388  1.1630  TC=0,0 
G_G7         0 JUNCTION-TEMPERATURE-1RC VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
C_C10         N94536 N94151  {C4}  TC=0,0 
C_C12         N95722 N95798  {C2}  TC=0,0 
C_C5         N92368 N92773  {C2}  TC=0,0 
V_V_Gate         G GATE 0VDC
R_RT3         N11408 N11412  61.1685 TC=0,0 
C_C8         N94061 N94123  {C2}  TC=0,0 
R_RF3         N16384 N16388  39.0009 TC=0,0 
V_V4         N11732 0 {TEMP}
R_R10         N94536 N94151  {R4} TC=0,0 
R_R5         N92368 N92773  {R2} TC=0,0 
C_C3         N91434 N91125  {C2}  TC=0,0 
R_R12         N95722 N95798  {R2} TC=0,0 
R_R8         N94061 N94123  {R2} TC=0,0 
R_RT8         N11716 N11732  30.5800 TC=0,0 
R_RT6         N11708 N11712  2.7529 TC=0,0 
R_R3         N91434 N91125  {R2} TC=0,0 
G_DissipationPower         0 j-a-Temp-Filter VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
C_CT2         N11404 N11408  269.2768m  TC=0,0 
R_RT5         j-f-Temp-Tank N11708  9.0636 TC=0,0 
C_C1         JUNCTION-TEMPERATURE-1RC N89014  {C1}  TC=0,0 
C_C13         N95798 N95860  {C3}  TC=0,0 
R_RF2         N16364 N16384  47.7776 TC=0,0 
V_V3         N11450 0 {TEMP}
C_C9         N94123 N94536  {C3}  TC=0,0 
R_R13         N95798 N95860  {R3} TC=0,0 
R_RF8         N18741 N18767  3.2552 TC=0,0 
C_CT1         j-a-Temp-Tank N11404  1.4467  TC=0,0 
R_RF1         j-a-Temp-Filter N16364  13.2424 TC=0,0 
R_RT2         N11404 N11408  16.9651 TC=0,0 
R_R9         N94123 N94536  {R3} TC=0,0 
C_CT4         N11412 N11450  1.1293m  TC=0,0 
R_RF5         j-f-Temp-Filter N18733  4.5767 TC=0,0 
V_V5         N16436 0 {TEMP}
C_CT3         N11408 N11412  6.2168m  TC=0,0 
G_G5         0 j-a-Temp-Tank VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
C_C4         JUNCTION-TEMPERATURE-3RC N92368  {C1}  TC=0,0 
R_RF7         N18737 N18741  23.0119 TC=0,0 
C_C14         N95860 N96370  {C4}  TC=0,0 
C_C11         JUNCTION-TEMPERATURE-5RC N95722  {C1}  TC=0,0 
R_RT4         N11412 N11450  25.7913 TC=0,0 
C_CF8         0 N18741  1.0588  TC=0,0 
C_C7         JUNCTION-TEMPERATURE-4RC N94061  {C1}  TC=0,0 
R_R1         JUNCTION-TEMPERATURE-1RC N89014  {R1} TC=0,0 
C_C2         JUNCTION-TEMPERATURE-2RC N91434  {C1}  TC=0,0 
R_R4         JUNCTION-TEMPERATURE-3RC N92368  {R1} TC=0,0 
R_R14         N95860 N96370  {R4} TC=0,0 
R_R11         JUNCTION-TEMPERATURE-5RC N95722  {R1} TC=0,0 
C_CF5         0 j-f-Temp-Filter  418.7427u  TC=0,0 
C_CF1         0 j-a-Temp-Filter  463.7733u  TC=0,0 
R_R7         JUNCTION-TEMPERATURE-4RC N94061  {R1} TC=0,0 
R_R2         JUNCTION-TEMPERATURE-2RC N91434  {R1} TC=0,0 
C_CT5         j-f-Temp-Tank N11708  4.1442m  TC=0,0 
C_C15         N96370 N95888  {C5}  TC=0,0 
V_V9         N92392 0 {TEMP}
V_V_Source         SOURCE S 0VDC
V_V11         N95888 0 {TEMP}
R_RF4         N16388 N16436  63.8585 TC=0,0 
C_CT8         N11716 N11732  12.3991m  TC=0,0 
V_V10         N94151 0 {TEMP}
R_R15         N96370 N95888  {R5} TC=0,0 
G_G4         0 j-f-Temp-Filter VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
V_V8         N91125 0 {TEMP}
C_C6         N92773 N92392  {C3}  TC=0,0 
C_CT7         N11712 N11716  235.0682m  TC=0,0 
G_G9         0 JUNCTION-TEMPERATURE-3RC VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
C_CF6         0 N18733  3.7639m  TC=0,0 
R_R6         N92773 N92392  {R3} TC=0,0 
G_G11         0 JUNCTION-TEMPERATURE-5RC VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
V_V7         N89014 0 {TEMP}
C_CF3         0 N16384  15.7870m  TC=0,0 
G_G10         0 JUNCTION-TEMPERATURE-4RC VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
G_G8         0 JUNCTION-TEMPERATURE-2RC VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
X_U1         DRAIN GATE SOURCE SQ2348ES 
R_RF6         N18733 N18737  19.6106 TC=0,0 
V_V_Drain         D DRAIN 0VDC
G_G6         0 j-f-Temp-Tank VALUE {
+  (V(Drain)*I(V_V_Drain)+V(Gate)*I(V_V_Gate)+V(Source)*I(V_V_Source)) }
V_V6         N18767 0 {TEMP}
.ENDS
