* Modèle de SSR fait par l'EPSA saison 2023
** Eymeric Chauchat eymeric.chauchat@ecl21.ec-lyon.fr
* Fait pour les résistances variables Bourns 3296
**************************************************
*
**************************************************
*Modèle
.SUBCKT SWITCH CONT+ CONT- LOAD1 LOAD2
VWS1 A CONT- 0
D1 CONT+ A DRFN1VWM2STF
W1 LOAD1 LOAD2 VWS1 switch1
.MODEL DRFN1VWM2STF D
+ IS=308.39E-12
+ N=3
+ RS=20.975E-3
+ IKF=88.635E-3
+ EG=0.92
+ CJO=38.623E-12
+ M=0.3905
+ VJ=0.5
+ ISR=28.491E-12
+ NR=3
+ BV=200
+ TT=32.728E-9
+ TRS1=-0.002
+ TIKF=0.014
.model switch1 ISWITCH (RON=26 IT = 1m )
.ENDS